US04380546
A mixture of 329 g of phenol, 484 g of dry potassium carbonate, 756 g of 1,4-dibromobutane and 1,000 ml of cyclopentanone is refluxed for 24 hours, whilst stirring. The solid constituents are filtered off and the filtrate is then concentrated under reduced pressure; the oily residue is taken up in 1,500 ml of methylene chloride and this solution is extracted ten times with 200 ml of 15 percent strength aqueous sodium hydroxide solution at a time. The organic phase is then extracted twice with 300 ml of water at a time, dried over magnesium sulate, filtered and concentrated under reduced pressure. Distillation of the residue gives, at 92°-98° C./0.4 mbar, 395 g of colorless 1-bromo-3-phenoxybutane, which solidifies in the receiver; melting point 33°-36° C.

reactant | phenol | 329 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 484 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dibromobutane | 756 g | BrCCCCBr | C4H8Br2
solvent | cyclopentanone | 1,000 ml | C1(CCCC1)=O | C5H8O
product | 1-bromo-3-phenoxybutane | 395 g | BrCCC(C)OC1=CC=CC=C1 | C10H13BrO
